US05360806
11.3 g of 3-cyano-2,6-dichloro-4-trifluoromethylpyridine was gradually added to 22.6 ml of concentrated sulfuric acid, and then the mixture was heated and reacted at 100° C. for one hour. After completion of the reaction, the mixture was poured into ice water, whereupon white precipitates formed. The precipitates were collected by filtration, and the filtrate was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain a white solid. This solid and the precipitates previously obtained, were put together to obtain 9.2 g of 2,6-dichloro-4-trifluoromethyl-3-pyridine carboxamide.

reactant | 3-cyano-2,6-dichloro-4-trifluoromethylpyridine | 11.3 g | C(#N)C=1C(=NC(=CC1C(F)(F)F)Cl)Cl | C7HCl2F3N2
reactant | sulfuric acid | 22.6 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-dichloro-4-trifluoromethyl-3-pyridine carboxamide | 9.2 g | ClC1=NC(=CC(=C1C(=O)N)C(F)(F)F)Cl | C7H3Cl2F3N2O
